US04607123
N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-L-leucine ethyl ester (XXIX)
Following the procedure of example 13, 48 g (64%) of this product was synthesized from 63.2 g (0.1 Mol) 3,5-diacetamido-2,4,6-triiodobenzoyl chloride and 29.4 g (0.15 Mol) L-leucine ethyl ester hydrochloride.

reactant | 3,5-diacetamido-2,4,6-triiodobenzoyl chloride | 0.1 Mol, 63.2 g | C(C)(=O)NC=1C(=C(C(=O)Cl)C(=C(C1I)NC(C)=O)I)I | C11H8ClI3N2O3
reactant | L-leucine ethyl ester hydrochloride | 0.15 Mol, 29.4 g | Cl.C(C)OC([C@@H](N)CC(C)C)=O
product | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-L-leucine ethyl ester | C(C)OC([C@@H](NC(C1=C(C(=C(C(=C1I)NC(C)=O)I)NC(C)=O)I)=O)CC(C)C)=O | C19H24I3N3O5
